5
R0100 1 0 500
R0200 2 0 5000
R0302 3 2 10000
R0304 3 4 1000
C0100 1 0 100E-6
C0205 2 5 1E-6
Q0402 4 2 1 NPN 0.99 0.5 1E-09 0.0434294 1E-09 0.0434294 100 5E-12 1E-16 5E-12 1E-16
V0300 3 0 0 0 10
V0500 5 0 1 0 0
.AC LIN 5000 1 100E9
